US05096700
Benzyl 3-(S)-N,N-dibenzylamino-2-(R)-fluorobutanoate (26.2 g, 66.8 mmol) in 370 mL of methanol containing 5.6 mL of concentrated hydrochloric acid is connected to a Parr hydrogenation apparatus with 2.62 g of palladium hydroxide as catalyst and hydrogenated in two lots at 50 psi. The lots are combined and filtered through a pad of celite. The celite is washed with water and methanol and the combined filtrates are concentrated in vacuo to give a yellow oil. The crude amino acid is taken up in 290 mL of water and treated with sodium carbonate (15.6 g, 140 mmol) and benzyl chloroformate (12.0 g, 70 mmol). After stirring for 4.5 hours, another 7.8 g of sodium carbonate is added and the reaction allowed to stir an additional 18 hours. The basic solution is washed with ether and then acidified with 500 mL of 1 hydrochloric acid. The resulting mixture is extracted with ether. Drying over magnesium sulfate followed by removal of the ether in vacuo affords 12.7 g of the desired N-benzyloxycarbonyl-3-(S)-amino-2-(R)-fluorobutanoic acid.

reactant | Benzyl 3-(S)-N,N-dibenzylamino-2-(R)-fluorobutanoate | 66.8 mmol, 26.2 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)[C@H]([C@H](C(=O)OCC1=CC=CC=C1)F)C | C25H26FNO2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium carbonate | 140 mmol, 15.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzyl chloroformate | 70 mmol, 12.0 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium carbonate | 7.8 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 370 mL | CO | CH4O
catalyst | palladium hydroxide | 2.62 g | [OH-].[Pd+2].[OH-]
solvent | water | 290 mL | O | H2O
product | N-benzyloxycarbonyl-3-(S)-amino-2-(R)-fluorobutanoic acid | 12.7 g | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@H](C(=O)O)F)C | C12H14FNO4
